US06835846B2
A dry THF solution (150 ml) of the crude product, methyl 3-methyl-2-dodecenoate (2′) (E/Z mixture, 98.5 g, 0.435 mol), was added dropwise at room temperature to a stirred suspension of LiAlH4 (16.5 g, 0.435 mol) in dry THF (300 ml). The reaction mixture was heated for 2 hours under reflux. After the mixture was reverted to room temperature, water and 10% sulfuric acid were slowly added in sequence, and the resulting mixture was extracted with diethyl ether. The organic layer was washed with water and a saturated aqueous solution of sodium chloride, dried over magnesium sulfate, and then concentrated under vacuum to obtain crude (E)-3-methyl-2-dodecen-1-ol (85.5 g, 99%) as an E/Z mixture. The E/Z ratio of the crude alcohol mixture was found to be 96:4 as a result of 250 MHz 1H-NMR analysis. A portion (50 g) of the residue was subjected to silica gel column chromatography (hexane elution) to obtain 41.3 g (83%) of a pure E isomer (3′).

reactant | methyl 3-methyl-2-dodecenoate | CC(=CC(=O)OC)CCCCCCCCC | C14H26O2
reactant | LiAlH4 | 0.435 mol, 16.5 g | [H-].[H-].[H-].[H-].[Li+].[Al+3]
reactant | water | O | H2O
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
solvent | THF | 300 ml | C1CCOC1 | C4H8O
solvent | THF | 150 ml | C1CCOC1 | C4H8O
product | (E)-3-methyl-2-dodecen-1-ol | 85.5 g, 99% | C\C(=C/CO)\CCCCCCCCC | C13H26O
